US06127386
182a. 6-Chloro-3-(1-methyl-2-(S)-pyrrolidinylmethoxy)-5-(5-pyrimidinyl)pyridine
To the solution of 5-bromo-6-chloro-3-(1-methyl-2-(R)-pyrrolidinylmethoxy)-pyridine (390 mg, 1.27 mmol) in toluene (15 mL) was added tetrekis(triphenylphosphine)palladium (40 mg, 1%) and tributyl(pyrimidinyl)tin (0.57 g, 1.53 mmol). The mixture was stirred and heated under reflux for 6 h. Solvent was evaporated and the residue was chromatographed (silica gel; CH2Cl2 /MeOH, 10:0.3 to 10:1) to afford an oil (193 mg, 50%): 1H NMR (CDCl3, 300 MHz) δ 1.62 (m, 1H), 1.68-1.90 (m, 2H), 2.02 (m, 1H), 2.32 (m, 1H), 2.50 (s, 3H), 2.70 (m, 1H), 3.12 (m, 1H), 3.98-4.06 (m, 2H), 7.25 (m, 1H), 8.18 (d, 1H, J=3.0 Hz), 8.87 (s, 2H), 9.29 (s, 1H); MS (CI/NH3) m/z 305 (M+H)+.

reactant | 5-bromo-6-chloro-3-(1-methyl-2-(R)-pyrrolidinylmethoxy)-pyridine | 1.27 mmol, 390 mg | BrC=1C=C(C=NC1Cl)OC[C@@H]1N(CCC1)C | C11H14BrClN2O
reactant | tributyl(pyrimidinyl)tin | 1.53 mmol, 0.57 g | C(CCC)[Sn](C1=NC=CC=N1)(CCCC)CCCC
solvent | toluene | 15 mL | C1(=CC=CC=C1)C | C7H8
product | 6-Chloro-3-(1-methyl-2-(S)-pyrrolidinylmethoxy)-5-(5-pyrimidinyl)pyridine | 193 mg, 50% | ClC1=C(C=C(C=N1)OC[C@H]1N(CCC1)C)C=1C=NC=NC1 | C15H17ClN4O
